US08541587B2
Step 3: {5-[4′-(1-Methanesulfonylaminocarbonyl-cyclopropyl)-biphenyl-4-yl]-3-methyl-isoxazol-4-yl}-carbamic acid tert-butyl ester:
Prepared according to the procedure described in Example 1, Step 10, using [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid tert-butyl ester and N-{1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarbonyl}-methanesulfonamide.

reactant | [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C(=NOC1C1=CC=C(C=C1)Br)C)=O | C15H17BrN2O3
reactant | N-{1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarbonyl}-methanesulfonamide | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1(CC1)C(=O)NS(=O)(=O)C)C | C17H24BNO5S
product | {5-[4′-(1-Methanesulfonylaminocarbonyl-cyclopropyl)-biphenyl-4-yl]-3-methyl-isoxazol-4-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)NS(=O)(=O)C)C)=O | C26H29N3O6S
